US07589095B2
A mixture of 5-methyl-6-propyl-4-(3-trifluoromethylphenyl)-1H-pyrimidin-2-one (64 mg) and phosphorus oxychloride (3 mL) was stirred and heated at reflux for 24 h, then allowed to cool and poured onto a mixture of ice/ether (20 mL). The ether layer was separated, washed with saturated sodium carbonate solution (10 mL) and water (10 mL), dried over sodium sulphate, and evaporated at reduced pressure to afford 2-chloro-5-methyl-4-propyl-6-(3-trifluoromethylphenyl)-pyrimidine as an oil (64 mg).

reactant | 5-methyl-6-propyl-4-(3-trifluoromethylphenyl)-1H-pyrimidin-2-one | 64 mg | CC=1C(=NC(NC1CCC)=O)C1=CC(=CC=C1)C(F)(F)F | C15H15F3N2O
reactant | phosphorus oxychloride | 3 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-5-methyl-4-propyl-6-(3-trifluoromethylphenyl)-pyrimidine | 64 mg | ClC1=NC(=C(C(=N1)CCC)C)C1=CC(=CC=C1)C(F)(F)F | C15H14ClF3N2
